US05780482
A mixture of ethyl 4-chloro-6-ethoxy-7-methyl-1,8-naphthyridine-3-carboxylate (2.0 g), 4-aminophenoxy acetamide (1.13 g) and absolute ethanol (30 ml) was boiled under reflux for 1 hour and then cooled to ambient temperature. The mixture was filtered to give ethyl 4-[4-(carbamoylmethoxy)anilino]-6-ethoxy-7-methyl-1,8-naphthyridine-3-carboxylate hydrochloride, m.p. 215°-217° C.

reactant | ethyl 4-chloro-6-ethoxy-7-methyl-1,8-naphthyridine-3-carboxylate | 2.0 g | ClC1=C(C=NC2=NC(=C(C=C12)OCC)C)C(=O)OCC | C14H15ClN2O3
reactant | 4-aminophenoxy acetamide | 1.13 g | NC1=CC=C(OCC(=O)N)C=C1 | C8H10N2O2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | ethyl 4-[4-(carbamoylmethoxy)anilino]-6-ethoxy-7-methyl-1,8-naphthyridine-3-carboxylate hydrochloride | Cl.C(N)(=O)COC1=CC=C(NC2=C(C=NC3=NC(=C(C=C23)OCC)C)C(=O)OCC)C=C1 | InChI=1S/C22H24N4O5.ClH/c1-4-29-18-10-16-20(26-14-6-8-15(9-7-14)31-12-19(23)27)17(22(28)30-5-2)11-24-21(16)25-13(18)3;/h6-11H,4-5,12H2,1-3H3,(H2,23,27)(H,24,25,26);1H
